US07482341B2
Step B]: 6-(2-Cyclopropyl-ethoxymethyl)-pyridin-2-ylamine
This material was prepared in analogy to example 86 step B] from N-[6-(2-cyclopropyl-ethoxymethyl)-pyridin-2-yl]-2,2-dimethyl-propionamide (0.51 g) and 3M aqueous NaOH (3.7 mL) as a light yellow oil (0.39 g) that was used directly in the next step.

reactant | N-[6-(2-cyclopropyl-ethoxymethyl)-pyridin-2-yl]-2,2-dimethyl-propionamide | 0.51 g | C1(CC1)CCOCC1=CC=CC(=N1)NC(C(C)(C)C)=O | C16H24N2O2
reactant | NaOH | 3M, 3.7 mL, 0.39 g | [OH-].[Na+]
product | 6-(2-Cyclopropyl-ethoxymethyl)-pyridin-2-ylamine | C1(CC1)CCOCC1=CC=CC(=N1)N | C11H16N2O
